US09260429B2
(B) 2-[5-Chloro-3-(2-methylamino-ethyl)-indol-1-yl]-1-(4-methyl-piperidin-1-yl)-ethanone
2-[N-(4-Chloro-phenyl)-hydrazino]-1-(methyl-piperidin-1-yl)-ethanone (0.75 g, 2.66 mmol) was dissolved in ethyl acetate (3 mL) and 4M hydrochloride in dioxane (0.7 mL) was added. The mixture was concentrated under reduced pressure to a glassy oil/foam. This was dissolved in a mixture of ethanol (4 mL) and water (2 mL) and heated to 60° C. The 4,4-diethoxy-N-methylbutan-1-amine (0.47 g, 2.68 mmol) was added and then heated to 7{tilde over (0)}80° C. 28% aqueous HCl (0.35 mL, 2.66 mmol) was added and the reaction heated at 80° C. for 1 h. More 4,4-diethoxy-N-methylbutan-1-amine (0.2 g, 1.14 mmol) and 28% aqueous HCl (0.3 mL, 2.30 mmol) was added and heated for a further 3 h. Further 4,4-diethoxy-N-methylbutan-1-amine (0.3 g, 1.71 mmol) was added and heated for a further 6 h. The reaction was concentrated under reduced pressure to give a dark brown oil. The oil was subjected to column chromatography (silica gel, eluent: EtOAc:EtOH:NH4OH 7:3:1) to give a brown oil (0.29 g). Further purification of the brown oil by column chromatography (silica gel, eluent: EtOAc:EtOH:NH4OH 7:3:1) gave pure product (179 mg, 19%).

reactant | 2-[N-(4-Chloro-phenyl)-hydrazino]-1-(methyl-piperidin-1-yl)-ethanone | 2.66 mmol, 0.75 g | ClC1=CC=C(C=C1)N(N)CC(=O)N1C(CCCC1)C | C14H20ClN3O
reactant | hydrochloride | 4M | Cl | ClH
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 2.68 mmol, 0.47 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 2.66 mmol, 0.35 mL | Cl | ClH
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 1.14 mmol, 0.2 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 2.30 mmol, 0.3 mL | Cl | ClH
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 1.71 mmol, 0.3 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | EtOAc EtOH NH4OH | CCOC(=O)C.CCO.[NH4+].[OH-]
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
product | 2-[5-Chloro-3-(2-methylamino-ethyl)-indol-1-yl]-1-(4-methyl-piperidin-1-yl)-ethanone | 0.29 g | ClC=1C=C2C(=CN(C2=CC1)CC(=O)N1CCC(CC1)C)CCNC | C19H26ClN3O
